data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
4798,5477,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH-:16][N+:17]([CH3:18])=[C:19]([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:16]([CH3:15])[N:17]([CH3:18])[C:19]2([C:20]([CH3:21])=[O:22])[C:23]([CH3:24])=[O:25],water,298.15,30.3495969753628,6.223034714033562
4200,4805,[CH3:10][C:11](=[O:12])[C-:13]([N+:14]#[C:15][C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:15]([C:16]#[N:17])=[N:14][C:13]1([C:11]([CH3:10])=[O:12])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,11.057418305219462,-31.67583146173156
3307,3746,[CH3:1][C:2]([CH3:3])=[CH:4][CH:5]=[O:6].[CH3:7][CH:8]=[N+:9]([CH3:10])[C-:11]([CH3:12])[C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C:2]1([CH3:3])[CH:4]([CH:5]=[O:6])[C:11]([CH3:12])([C:13](=[O:14])[O:15][CH3:16])[N:9]([CH3:10])[CH:8]1[CH3:7],water,298.15,13.151597486365755,-20.18406907099827
3058,3432,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[N:5]#[C:6][C:7](=[O+:8][NH-:9])[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1>>[CH3:1][C@@H:2]1[C@H:3]([CH3:4])[NH:9][O:8][C:7]1([C:6]#[N:5])[c:10]1[cH:11][cH:12][cH:13][cH:14][cH:15]1,water,298.15,7.6518855421254175,-47.10451611961371
4190,4793,[CH3:10][O:11][C:12](=[O:13])[C:14](=[O+:15][NH-:16])[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][C:14]([C:12]([O:11][CH3:10])=[O:13])([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)[O:15][NH:16]1,water,298.15,13.923764718223008,-43.55679346285967
3220,3636,[CH3:10][C:11]([CH3:12])=[O+:13][N-:14][C:15]#[N:16].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][N:14]([C:15]#[N:16])[O:13][C:11]1([CH3:10])[CH3:12],water,298.15,26.713977381937127,-12.90027071218968
3269,3695,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N-:12][NH+:13]=[C:14]([CH3:15])[CH3:16]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[N:12]([CH3:11])[NH:13][C:14]2([CH3:15])[CH3:16],water,298.15,30.36812071681513,-4.435668908639124
1115,1213,[CH2:12]=[N+:13]([CH3:14])[C-:15]([C:16](=[O:17])[NH:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([CH3:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([CH3:6])([CH:7]3[CH:8]=[CH:9][CH:10]1[O:11]3)[CH2:12][N:13]([CH3:14])[C:15]2([C:16](=[O:17])[NH:18][CH3:19])[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,14.740932774632869,-27.81486825316704
2519,2798,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]#[C:11][C:12]([Cl:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1.[N:22]#[C:23][N-:24][O+:25]=[C:26]([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[NH:8][CH3:9])[C:10]2=[C:11]([C:12]([Cl:13])([C:14](=[O:15])[O:16][CH3:17])[CH2:18][CH2:19][CH2:20][CH2:21]1)[N:24]([C:23]#[N:22])[O:25][C:26]2([C:27]#[N:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,15.497421549029747,-41.33579942741718
3934,4499,[CH3:10][N-:11][O+:12]=[C:13]([C:14]#[N:15])[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1.[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:13]([C:14]#[N:15])([c:16]2[cH:17][cH:18][cH:19][cH:20][cH:21]2)[O:12][N:11]1[CH3:10],water,298.15,14.945183728391044,-36.96580566242344
237,260,[CH3:9][C:10](=[O:11])[CH-:12][N+:13]#[C:14][c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1.[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[C:14]([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)=[N:13][CH:12]1[C:10]([CH3:9])=[O:11],water,298.15,18.93972880240146,-58.14546336608417
2599,2881,[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([C:9](=[O:10])[O:11][CH3:12])([C:13](=[O:14])[O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[c-:24]1[c:25](=[O:26])[o:27][c:28](-[c:29]2[cH:30][cH:31][cH:32][cH:33][cH:34]2)[n+:35]1[CH3:36]>>[CH3:1][NH:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([C:9](=[O:10])[O:11][CH3:12])([C:13](=[O:14])[O:15][CH3:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:28]1([c:29]3[cH:30][cH:31][cH:32][cH:33][cH:34]3)[O:27][C:25](=[O:26])[C:24]2([C:22]([CH3:21])=[O:23])[N:35]1[CH3:36],water,298.15,24.50172225485042,-4.245167736997077
